US06831094B2
Preparation of t-Butyl (2S)-2-[(1H-indazol-4-yloxy)methyl]pyrrolidine-1-carboxylate
A solution of t-butyl (2S)-2-[(3-amino-2-methylphenoxy) methyl]pyrrolidine-1-carboxylate (5.00 g, 16.33 mmol), potassium acetate (1.92 g, 19.6 mmol) and acetic anhydride (4.9 mL, 52.3 mmol) in benzene is treated dropwise with isoamylnitrite (4.3 mL, 32.7 mmol), heated at reflux temperature overnight, cooled to room temperature and filtered. The filtercake is washed with benzene. The filtrates are combined and concentrated in vacuo to give a yellow oil residue. The residue is purified by chromatography (silica gel, EtOAc:hexanes, 15:85). The purified oil (5.05 g) is dissolved in ethanol, treated with 40% aqueous NaOH, heated at reflux temperature for 45 min, cooled in an ice-water bath, neutralized to pH 8 with concentrated HCl and concentrated in vacuo to remove the ethanol. The resultant aqueous residue is extracted with EtOAc. The combined extracts are washed sequentially with water and brine, dried over MgSO4 and concentrated in vacuo to give a yellow oil. This oil is purified by chromatography (silica gel, EtOAc:hexanes, 30:70) to give the title product as an off-white solid, 3.52 g, mp 125° C., identified by NMR and mass spectral analyses.

reactant | t-butyl (2S)-2-[(3-amino-2-methylphenoxy) methyl]pyrrolidine-1-carboxylate | 16.33 mmol, 5.00 g | NC=1C(=C(OC[C@H]2N(CCC2)C(=O)OC(C)(C)C)C=CC1)C | C17H26N2O3
reactant | potassium acetate | 19.6 mmol, 1.92 g | C(C)(=O)[O-].[K+]
reactant | acetic anhydride | 52.3 mmol, 4.9 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | isoamylnitrite | 32.7 mmol, 4.3 mL | C(CC(C)C)ON=O | C5H11NO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | t-Butyl (2S)-2-[(1H-indazol-4-yloxy)methyl]pyrrolidine-1-carboxylate | N1N=CC2=C(C=CC=C12)OC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C17H23N3O3
